US04325959
Preparation of 4-(((2-(2-thienyl)ethyl)thio)methyl)benzoic acid.
A mixture containing 7.2 grams of 4-(((aminoiminomethyl)thio)methyl)benzoic acid monohydrobromide (0.025 mole), 7.1 grams of 4-methylphenyl 2-thiopheneethanesulfonate (0.025 mole), 50 ml of ethanol, 25 ml of 20% sodium hydroxide in water, and 25 ml of water were warmed to approximately 50° C. The orange solution obtained was mixed with 1 liter of ice-water and acidified with glacial acetic acid giving a pink solid. The pink solid was collected and recrystallized from acetonitrile to give the final product 4-(((2-(2-thienyl)ethyl)thio)methyl)benzoic acid as a pale pink solid having a melting point of 136°-137° C.

reactant | 4-(((aminoiminomethyl)thio)methyl)benzoic acid monohydrobromide | 0.025 mole, 7.2 grams | Br.NN=CSCC1=CC=C(C(=O)O)C=C1
reactant | 4-methylphenyl 2-thiopheneethanesulfonate | 0.025 mole, 7.1 grams | S1C(=CC=C1)CCS(=O)(=O)OC1=CC=C(C=C1)C | C13H14O3S2
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 25 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(((2-(2-thienyl)ethyl)thio)methyl)benzoic acid | S1C(=CC=C1)CCSCC1=CC=C(C(=O)O)C=C1 | C14H14O2S2
